US08735417B2
To a suspension of tert-butyl {3-nitro-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate (314 mg, 0.542 mmol) in ethanol (9 mL) at room temperature under nitrogen, was added iron (605 mg, 10.84 mmol) and a saturated aqueous solution of ammonium chloride (0.25 mL). The mixture was stirred at 40° C. for 30 minutes. N,N′-dimethylformamide (5 mL) was added and the mixture was stirred at 40° C. for 3 hours. An additional portion of iron (300 mg, 5.4 mmol) and saturated aqueous solution of ammonium chloride (1.1 mL) were then added and the resulting mixture was stirred at 40° C. for 2 hours. The reaction was then cooled to room temperature, and concentrated under reduced pressure to remove volatiles. The resulting suspension was filtered through celite, rinsing successively with N,N′-dimethylformamide, ethyl acetate, dichloromethane, and 2-methyltetrahydrofuran. The filtrate was concentrated to remove the volatiles, then diluted with ethyl acetate, washed with water (5×), brine (1×), dried over sodium sulfate, and concentrated to provide a beige solid. This solid was swished in 1:1 ethyl acetate/hexane, the solids collected by filtration, rinsed successively with 1:1 ethyl acetate/hexane and hexane, and dried to afford 250 mg (0.46 mmol, 85%) of tert-butyl {3-amino-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate as a beige solid.

reactant | tert-butyl {3-nitro-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate | 0.542 mmol, 314 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C1=CN=C(S1)N1CC(NCCC1)=O)N(C(OC(C)(C)C)=O)C1=NC=CC(=N1)C(F)(F)F | C24H24F3N7O5S
reactant | ammonium chloride | 0.25 mL | [Cl-].[NH4+]
reactant | N,N′-dimethylformamide | 5 mL | CN(C)C=O | C3H7NO
reactant | ammonium chloride | 1.1 mL | [Cl-].[NH4+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | iron | 10.84 mmol, 605 mg | [Fe] | Fe
catalyst | iron | 5.4 mmol, 300 mg | [Fe] | Fe
product | tert-butyl {3-amino-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate | 0.46 mmol, 250 mg, 85% | NC=1C=C(C=C(C1)C1=CN=C(S1)N1CC(NCCC1)=O)N(C(OC(C)(C)C)=O)C1=NC=CC(=N1)C(F)(F)F | C24H26F3N7O3S
